US08003649B2
Reductive amination of 6-(1,4-diazepan-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine with 4-methylsulfonylbenzaldehyde was carried out according to General Synthetic Method 8. The crude product was purified by hplc using a Waters XBridge Prep C18 OBD column (5μ silica, 19 mm diameter, 100 mm length) eluted with decreasingly polar mixtures of water (containing 0.05% aqueous ammonia) and acetonitrile as eluents to give 6-[4-[(4-methylsulfonylphenyl)methyl]-1,4-diazepan-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine.

reactant | 6-(1,4-diazepan-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | N1(CCNCCC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C11H13F3N6
reactant | 4-methylsulfonylbenzaldehyde | CS(=O)(=O)C1=CC=C(C=O)C=C1 | C8H8O3S
product | 6-[4-[(4-methylsulfonylphenyl)methyl]-1,4-diazepan-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | CS(=O)(=O)C1=CC=C(C=C1)CN1CCN(CCC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C19H21F3N6O2S
